US07872128B2
Step 3: Methyl-6-chloro-2-fluoro-3-((hydroxyimino)methyl)benzoate
To a solution of methyl-6-chloro-2-fluoro-3-formylbenzoate (930 mg, 4294 μmol) in ethanol (14.5 ml) at RT was added hydroxylamine (50 wt. % aqueous solution) (1316 μl, 21469 μmol) and the solution was stirred for 16 hrs. The volatiles were removed under reduced pressure, and the residue was diluted with water, which caused a solid to precipitate. The solid was collected by filtration and washed with water and dried in vacuo to give an off-white solid.

reactant | methyl-6-chloro-2-fluoro-3-formylbenzoate | 4294 μmol, 930 mg | COC(C1=C(C(=CC=C1Cl)C=O)F)=O | C9H6ClFO3
reactant | hydroxylamine | 21469 μmol, 1316 μl | NO | H3NO
solvent | ethanol | 14.5 ml | C(C)O | C2H6O
product | Methyl-6-chloro-2-fluoro-3-((hydroxyimino)methyl)benzoate | COC(C1=C(C(=CC=C1Cl)C=NO)F)=O | C9H7ClFNO3
